US06703392B2
2-[1-(3,4-dimethoxy-benzyl)-5-isobutoxy-8-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(pyridin-2-yl-methyl)-acetamide:
prepared by reaction of 2-[1-(3,4-dimethoxy-benzyl)-5-hydroxy-8-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(pyridin-2-yl-methyl)-acetamide with 1-bromo-2-methyl-propane

reactant | 2-[1-(3,4-dimethoxy-benzyl)-5-hydroxy-8-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(pyridin-2-yl-methyl)-acetamide | COC=1C=C(CC2N(CCC3=C(C=CC(=C23)OC)O)CC(=O)NCC2=NC=CC=C2)C=CC1OC | C27H31N3O5
reactant | 1-bromo-2-methyl-propane | BrCC(C)C | C4H9Br
product | 2-[1-(3,4-dimethoxy-benzyl)-5-isobutoxy-8-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(pyridin-2-yl-methyl)-acetamide | COC=1C=C(CC2N(CCC3=C(C=CC(=C23)OC)OCC(C)C)CC(=O)NCC2=NC=CC=C2)C=CC1OC | C31H39N3O5
